US05750531
Step 2: 5-Methyl-6-ethyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.55 ml, 4.95 mmol) was added to a mixture solution of 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.80 g, 2.65 mmol) and dimethylformamide (5 ml), 0.25 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 4.95 mmol, 0.55 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 5-methyl-6-ethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.65 mmol, 0.80 g | CC=1C(=NC(=NC1CC)Cl)N1CC2=CC=CC=C2CC1 | C16H18ClN3
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-6-ethyl-2-(2-methyl-4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.25 g, Yield: 22.1% | Cl.CC=1C(=NC(=NC1CC)NC1=C(C=C(C=C1)F)C)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C24H27FN4.ClH/c1-5-21-16(3)23(29-13-12-18-8-6-7-9-20(18)17(29)4)28-24(26-21)27-22-11-10-19(25)14-15(22)2;/h6-11,14,17H,5,12-13H2,1-4H3,(H,26,27,28);1H
